US05719278
N-[5-[(4,5-Dihydropyrazolo[3,4-d]pyrido[2,3-b]azepin-6(1H)-yl)carbonyl]-2-pyridinyl]-5-fluoro-2-methylbenzamide
As described for Example 13, 4,5-dihydropyrazolo[3,4-d]pyrido[2,3-b]azepine is reacted with 6-[(5-fluoro-2-methylbenzoyl)amino]pyridine-3-carbonyl chloride to give the product as a solid.

reactant | 4,5-dihydropyrazolo[3,4-d]pyrido[2,3-b]azepine | N1=NC=C2C1=C1C(=NCC2)N=CC=C1 | C10H8N4
reactant | 6-[(5-fluoro-2-methylbenzoyl)amino]pyridine-3-carbonyl chloride | FC=1C=CC(=C(C(=O)NC2=CC=C(C=N2)C(=O)Cl)C1)C | C14H10ClFN2O2
product | N-[5-[(4,5-Dihydropyrazolo[3,4-d]pyrido[2,3-b]azepin-6(1H)-yl)carbonyl]-2-pyridinyl]-5-fluoro-2-methylbenzamide | N1N=CC2=C1C1=C(N(CC2)C(=O)C=2C=CC(=NC2)NC(C2=C(C=CC(=C2)F)C)=O)N=CC=C1 | C24H19FN6O2
